US03992408
In the manner given in example 3, 1-phthalimido-3-bromo-2-butanone ethyleneketal in dimethyl sulfoxide is heated with sodium azide to give 1-phthalimido-3-azido-2-butanone, ethylene ketal.

reactant | 1-phthalimido-3-bromo-2-butanone ethyleneketal | C1COC(CN2C(C=3C(C2=O)=CC=CC3)=O)(C(C)Br)O1 | C14H14BrNO4
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-phthalimido-3-azido-2-butanone | C1(C=2C(C(N1CC(C(C)N=[N+]=[N-])=O)=O)=CC=CC2)=O | C12H10N4O3
